US05739127
4-Chloro-2-diethylaminoquinazoline
20.0 g of 1H,3H-quinazoline-2,4-dione were dissolved in 280 ml of phosphorus oxychloride, and 60 ml of triethylamine were added. After refluxing for 75 minutes, the excess phosphorus oxychloride was distilled off under vacuum and the residue was slowly introduced into 200 ml of ice-cold 1N sodium hydroxide solution. Extraction with dichloromethane (three times 150 ml), washing of the organic phase with water (three times 100 ml), drying over magnesium sulfate and distillation of the solvent on a rotary evaporator gave a brown oil, which could be used in the next reaction without further purification. Yield: 17.7 g (60%)

reactant | 1H,3H-quinazoline-2,4-dione | 20.0 g | N1C(NC(C2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 280 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-diethylaminoquinazoline | ClC1=NC(=NC2=CC=CC=C12)N(CC)CC | C12H14ClN3
